US07608603B2
To a solution of 4-chloro-3-(2-chloro-phenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine (2.30 g, 7.39 mmol) and 2-(trimethylsilyl)-ethoxymethylene chloride (1.96 mL, 11.086 mmol) in dry DMF (40 mL) at 0° C. under nitrogen was added sodium hydride (0.354 g of 60% solids in mineral oil, 14.78 mmol). The reaction mixture was stirred for two hours and allowed to warm to room temperature during this time. The reaction mixture was partitioned between water and ethyl acetate, and the organic layer was separate, washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was chromatographed on silica (01% to 20% EtOAc in hexanes) to give 2.30 g of 4-chloro-3-(2-chloro-phenyl)-6-methylsulfanyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidine

reactant | 4-chloro-3-(2-chloro-phenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine | 7.39 mmol, 2.30 g | ClC1=C2C(=NC(=N1)SC)NN=C2C2=C(C=CC=C2)Cl | C12H8Cl2N4S
reactant | 2-(trimethylsilyl)-ethoxymethylene chloride | 11.086 mmol, 1.96 mL | C[Si](CCOC(Cl)Cl)(C)C | C6H14Cl2OSi
reactant | sodium hydride | 14.78 mmol, 0.354 g | [H-].[Na+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-chloro-3-(2-chloro-phenyl)-6-methylsulfanyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidine | 2.30 g | ClC1=C2C(=NC(=N1)SC)N(N=C2C2=C(C=CC=C2)Cl)COCC[Si](C)(C)C | C18H22Cl2N4OSSi
